US07214686B2
To a stirred solution of 2-(5-amino-3-pyridyl)-1-azabicyclo[2.2.2]octane trihydrochloride (25 mg, 0.08 mmol) in dry ethanol (3 mL) was added isoamyl nitrite (0.10 mL, 0.74 mmol) and the mixture was refluxed for 2 h. When TLC analysis of the reaction mixture showed absence of starting material, the mixture was allowed to cool to ambient temperature. The solvent was removed by rotary evaporation to yield a thick brown oil, which solidified upon addition of dry diethyl ether. The product thus obtained was dissolved in chloroform and kept overnight at 4° C. to induce crystallization. The resulting solids were filtered, washed with diethyl ether and finally dried under vacuum for 24 h, to yield 2-(5-ethoxy-3-pyridyl)-1-azabicyclo[2.2.2]octane dihydrochloride (10 mg, 51%) as colorless needles.

reactant | 2-(5-amino-3-pyridyl)-1-azabicyclo[2.2.2]octane trihydrochloride | 0.08 mmol, 25 mg | Cl.Cl.Cl.NC=1C=C(C=NC1)C1N2CCC(C1)CC2
reactant | isoamyl nitrite | 0.74 mmol, 0.10 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-ethoxy-3-pyridyl)-1-azabicyclo[2.2.2]octane dihydrochloride | 10 mg, 51% | Cl.Cl.C(C)OC=1C=C(C=NC1)C1N2CCC(C1)CC2 | InChI=1S/C14H20N2O.2ClH/c1-2-17-13-8-12(9-15-10-13)14-7-11-3-5-16(14)6-4-11;;/h8-11,14H,2-7H2,1H3;2*1H
